* SPICE3 file created from top-level.ext - technology: scmos

.global Vdd Gnd 

.subckt amp amp_0/Vdd amp_0/Vcn a_181_265# amp_0/Vcp amp_0/Gnd c_1572_266# Gnd m1_827_271# w_163_258# amp_0/Vbn amp_0/V- amp_0/Vbp
M1000 a_20_135# amp_0/Vbn amp_0/Gnd amp_0/Gnd nfet w=36u l=1.8u
M1001 a_32_135# amp_0/Vcn a_20_135# amp_0/Gnd nfet w=36u l=1.8u
M1002 a_20_135# amp_0/V+ a_63_6# amp_0/Vdd pfet w=36u l=1.8u
M1003 a_103_6# amp_0/V+ a_92_244# amp_0/Gnd nfet w=36u l=1.8u
M1004 a_92_244# amp_0/Vcp a_32_135# amp_0/Vdd pfet w=36u l=1.8u
M1005 amp_0/Vdd a_n781_n137# a_92_244# amp_0/Vdd pfet w=36u l=1.8u
M1006 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1007 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1008 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1009 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1010 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1011 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1012 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1013 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1014 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1015 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1016 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1017 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1018 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1019 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1020 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1021 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1022 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1023 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1024 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1025 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1026 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1027 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1028 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1029 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1030 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1031 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1032 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1033 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1034 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1035 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1036 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1037 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1038 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1039 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1040 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1041 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1042 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1043 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1044 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1045 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1046 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1047 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1048 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1049 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1050 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1051 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1052 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1053 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1054 a_n600_n129# a_n781_n137# Vout_not w_n618_n136# pfet w=72u l=1.8u
M1055 Vout_not a_n781_n137# a_n600_n129# w_n618_n136# pfet w=72u l=1.8u
M1056 a_20_6# amp_0/Vbn amp_0/Gnd amp_0/Gnd nfet w=36u l=1.8u
M1057 a_n781_n137# amp_0/Vcn a_20_6# amp_0/Gnd nfet w=36u l=1.8u
M1058 a_63_6# amp_0/Vbp amp_0/Vdd amp_0/Vdd pfet w=36u l=1.8u
M1059 a_20_6# amp_0/V- a_63_6# amp_0/Vdd pfet w=36u l=1.8u
M1060 a_103_6# amp_0/V- a_92_13# amp_0/Gnd nfet w=36u l=1.8u
M1061 amp_0/Gnd amp_0/Vbn a_103_6# amp_0/Gnd nfet w=36u l=1.8u
M1062 a_92_13# amp_0/Vcp a_n781_n137# amp_0/Vdd pfet w=36u l=1.8u
M1063 amp_0/Vdd a_n781_n137# a_92_13# amp_0/Vdd pfet w=36u l=1.8u
M1064 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1065 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1066 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1067 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1068 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1069 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1070 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1071 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1072 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1073 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1074 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1075 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1076 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1077 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1078 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1079 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1080 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1081 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1082 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1083 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1084 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1085 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1086 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1087 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1088 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1089 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1090 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1091 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1092 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1093 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1094 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1095 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1096 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1097 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1098 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1099 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1100 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1101 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1102 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1103 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1104 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1105 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1106 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1107 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1108 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1109 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1110 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1111 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1112 amp_0/Vdd a_32_135# c_791_n128# amp_0/Vdd pfet w=72u l=1.8u
M1113 c_791_n128# a_32_135# amp_0/Vdd amp_0/Vdd pfet w=72u l=1.8u
M1114 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1115 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1116 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1117 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1118 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1119 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1120 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1121 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1122 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1123 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1124 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1125 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1126 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1127 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1128 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1129 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1130 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1131 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1132 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1133 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1134 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1135 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1136 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1137 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1138 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1139 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1140 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1141 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1142 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1143 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1144 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1145 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1146 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1147 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1148 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1149 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1150 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1151 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1152 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1153 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1154 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1155 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1156 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1157 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1158 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1159 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1160 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1161 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1162 Vout_not Vout_not Gnd Gnd nfet w=72u l=1.8u
M1163 Gnd Vout_not Vout_not Gnd nfet w=72u l=1.8u
M1164 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1165 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1166 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1167 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1168 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1169 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1170 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1171 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1172 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1173 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1174 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1175 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1176 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1177 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1178 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1179 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1180 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1181 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1182 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1183 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1184 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1185 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1186 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1187 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1188 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1189 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1190 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1191 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1192 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1193 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1194 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1195 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1196 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1197 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1198 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1199 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1200 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1201 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1202 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1203 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1204 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1205 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1206 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1207 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1208 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1209 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1210 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1211 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
M1212 c_791_n128# Vout_not Gnd Gnd nfet w=72u l=1.8u
M1213 Gnd Vout_not c_791_n128# Gnd nfet w=72u l=1.8u
.ends

.subckt bias Vbp Vdd Vcn Vcp Gnd Vbn
M1000 Gnd c_100_n194# M3source Gnd phrResistor w=1.8u l=7.2u
M1001 Vdd Vbp Vcn Vdd pfet w=36u l=1.8u
M1002 a_45_n24# Vbp Vdd Vdd pfet w=36u l=1.8u
M1003 a_57_n24# Vbp a_45_n24# Vdd pfet w=36u l=1.8u
M1004 a_39_n158# Vbp a_57_n24# Vdd pfet w=36u l=1.8u
M1005 Vdd Vbp Vbp Vdd pfet w=36u l=1.8u
M1006 Vbn Vbp Vdd Vdd pfet w=36u l=1.8u
M1007 a_133_n24# a_122_n40# Vdd Vdd pfet w=36u l=1.8u
M1008 a_122_n40# a_122_n40# a_133_n24# Vdd pfet w=36u l=1.8u
M1009 a_133_n24# a_122_n40# a_122_n40# Vdd pfet w=36u l=1.8u
M1010 Vcp Vcp a_133_n24# Vdd pfet w=36u l=1.8u
M1011 a_33_n156# Vcn Vcn Gnd nfet w=36u l=1.8u
M1012 a_39_n158# a_39_n158# a_33_n156# Gnd nfet w=36u l=1.8u
M1013 a_33_n156# a_39_n158# a_39_n158# Gnd nfet w=36u l=1.8u
M1014 Gnd a_39_n158# a_33_n156# Gnd nfet w=36u l=1.8u
M1015 M3source Vbn Vbp Gnd nfet w=72u l=1.8u
M1016 Vbn Vbn Gnd Gnd nfet w=36u l=1.8u
M1017 a_133_n156# Vbn a_122_n40# Gnd nfet w=36u l=1.8u
M1018 a_145_n156# Vbn a_133_n156# Gnd nfet w=36u l=1.8u
M1019 Gnd Vbn a_145_n156# Gnd nfet w=36u l=1.8u
M1020 Vcp Vbn Gnd Gnd nfet w=36u l=1.8u
.ends

.subckt amplifier amp_0/amp_0/V- bias_0/Vdd amp_0/Gnd amp_0/c_1572_266# bias_0/Vdd
Xamp_0 bias_0/Vdd bias_0/Vcn bias_0/Vdd bias_0/Vcp amp_0/Gnd amp_0/c_1572_266# amp_0/Gnd bias_0/Vdd bias_0/Vdd bias_0/Vbn amp_0/amp_0/V- bias_0/Vbp amp
Xbias_0 bias_0/Vbp bias_0/Vdd bias_0/Vcn bias_0/Vcp amp_0/Gnd bias_0/Vbn bias
.ends

.subckt dflipflop Qbar Vdd Gnd En Q Clk
M1000 Vdd Clk a_n5_15# Vdd pfet w=1.2u l=0.6u
M1001 a_n5_15# Q Qbar Vdd pfet w=1.2u l=0.6u
M1002 a_n5_15# Qbar Q Vdd pfet w=1.2u l=0.6u
M1003 Qbar Q Gnd Gnd nfet w=1.2u l=0.6u
M1004 Q Qbar Gnd Gnd nfet w=1.2u l=0.6u
M1005 Qbar En a_n8_n46# Gnd nfet w=1.2u l=2.4u
M1006 Q En a_0_n46# Gnd nfet w=1.2u l=2.4u
M1007 a_n8_n46# Clk a_n8_n93# Gnd nfet w=1.2u l=2.4u
M1008 a_0_n46# Clk a_n8_n138# Gnd nfet w=1.2u l=2.4u
M1009 Dbar Clk a_n8_n93# Vdd pfet w=1.2u l=0.6u
M1010 D Clk a_n8_n138# Vdd pfet w=1.2u l=0.6u
M1011 Vdd a_n8_n138# a_n8_n93# Vdd pfet w=1.2u l=0.6u
M1012 Vdd a_n8_n93# a_n8_n138# Vdd pfet w=1.2u l=0.6u
M1013 a_n8_n93# a_n8_n138# a_n5_n142# Gnd nfet w=1.2u l=0.6u
M1014 a_n8_n138# a_n8_n93# a_n5_n142# Gnd nfet w=1.2u l=0.6u
M1015 a_n5_n142# Clk Gnd Gnd nfet w=1.2u l=0.6u
.ends

.subckt invinverter Vdd Gnd
M1000 Gnd A Z Gnd nfet w=1.2u l=0.6u
M1001 Z A Vdd Vdd pfet w=1.2u l=0.6u
.ends

.subckt inverter Z Vdd Gnd
M1000 Vdd A Z Vdd pfet w=1.2u l=0.6u
M1001 Z A Gnd Gnd nfet w=1.2u l=0.6u
.ends

.subckt dflipflopsimple Vdd Gnd D En Dbar Qout
M1000 D En Q Vdd pfet w=1.2u l=0.6u
M1001 Dbar En Qbar Vdd pfet w=1.2u l=0.6u
M1002 Vdd Qbar Q Vdd pfet w=1.2u l=0.6u
M1003 Vdd Q Qbar Vdd pfet w=1.2u l=0.6u
M1004 Q Qbar a_n5_n142# Gnd nfet w=1.2u l=0.6u
M1005 Qbar Q a_n5_n142# Gnd nfet w=1.2u l=0.6u
M1006 a_n5_n142# En Gnd Gnd nfet w=1.2u l=0.6u
M1007 Gnd Qbar Qout Gnd nfet w=1.2u l=0.6u
M1008 Vdd Qbar Qout Vdd pfet w=1.2u l=0.6u
.ends

.subckt spi-interface Vdd dflipflopsimple_0[1]/Qout Gnd Vdd Gnd dflipflopsimple_0[3]/Qout dflipflopsimple_0[0]/Qout Vdd Gnd dflipflopsimple_0[2]/Qout Vdd
Xdflipflop_0[0] dflipflop_0[0]/Qbar Vdd Gnd inverter_1/Z dflipflop_0[0]/Q dflipflop_0[0]/Clk dflipflop
Xdflipflop_0[1] dflipflop_0[1]/Qbar dflipflop_0[1]/Vdd dflipflop_0[1]/Gnd dflipflop_0[1]/En dflipflop_0[1]/Q dflipflop_0[1]/Clk dflipflop
Xdflipflop_0[2] dflipflop_0[2]/Qbar Vdd Gnd dflipflop_0[2]/En dflipflop_0[2]/Q dflipflop_0[2]/Clk dflipflop
Xdflipflop_0[3] dflipflop_0[3]/Qbar dflipflop_0[3]/Vdd dflipflop_0[3]/Gnd dflipflop_0[3]/En dflipflop_0[3]/Q dflipflop_0[3]/Clk dflipflop
Xinvinverter_0 Vdd Gnd invinverter
Xinverter_1 inverter_1/Z Vdd Gnd inverter
Xdflipflopsimple_0[0] Vdd Gnd dflipflopsimple_0[0]/D dflipflopsimple_0[0]/En dflipflop_0[3]/Qbar dflipflopsimple_0[0]/Qout dflipflopsimple
Xdflipflopsimple_0[1] Vdd Gnd dflipflop_0[2]/Q inverter_1/Z dflipflop_0[2]/Qbar dflipflopsimple_0[1]/Qout dflipflopsimple
Xdflipflopsimple_0[2] Vdd Gnd dflipflop_0[1]/Q dflipflopsimple_0[2]/En dflipflopsimple_0[2]/Dbar dflipflopsimple_0[2]/Qout dflipflopsimple
Xdflipflopsimple_0[3] Vdd Gnd dflipflopsimple_0[3]/D dflipflopsimple_0[3]/En dflipflop_0[0]/Qbar dflipflopsimple_0[3]/Qout dflipflopsimple
.ends

.subckt resistors B1 B2 B3 w_1709_725# r1 Vout B0
M1000 r1 c_n3_n3# Vout w_n21_n26# phrResistor w=1.5u l=240u
M1001 r2 c_808_n3# r1 w_n21_n26# phrResistor w=1.5u l=15u
M1002 r3 c_868_n3# r2 w_n21_n26# phrResistor w=1.5u l=30u
M1003 r6 c_978_n3# r3 w_n21_n26# phrResistor w=1.5u l=15u
M1004 r4 c_1038_n3# r6 w_n21_n26# phrResistor w=1.5u l=60u
M1005 Vref c_1248_n3# r4 w_n21_n26# phrResistor w=1.5u l=120u
M1006 r2 B1 r3 w_n21_n26# nfet w=49.5u l=0.6u
M1007 r2 B0 r1 w_n21_n26# nfet w=49.5u l=0.6u
M1008 r6 B2 r4 w_n21_n26# nfet w=49.5u l=0.6u
M1009 r4 B3 Vref w_n21_n26# nfet w=49.5u l=0.6u
.ends


* Top level circuit top-level

Xamplifier_0 resistors_0/r1 spi-interface_0/dflipflopsimple_0[3]/Vdd spi-interface_0/dflipflopsimple_0[0]/Gnd resistors_0/Vout spi-interface_0/dflipflop_0[0]/Vdd amplifier
Xspi-interface_0 spi-interface_0/Vdd resistors_0/B2 spi-interface_0/dflipflopsimple_0[0]/Gnd spi-interface_0/Vdd spi-interface_0/Gnd resistors_0/B0 resistors_0/B3 spi-interface_0/dflipflopsimple_0[3]/Vdd spi-interface_0/dflipflopsimple_0[0]/Gnd resistors_0/B1 spi-interface_0/dflipflop_0[0]/Vdd spi-interface
Xresistors_0 resistors_0/B1 resistors_0/B2 resistors_0/B3 spi-interface_0/Gnd resistors_0/r1 resistors_0/Vout resistors_0/B0 resistors
.end

